US07741327B2
To a stirred solution of (S)-2-amino-3-cyclohexyl-propionic acid methyl ester (2.03 g, 0.011 mol) in N,N-dimethylformamide (10 mL) was added N,N-diisopropylethylamine (6.38 g, 0.049 mol) slowly at room temperature, under nitrogen. The resulting mixture was stirred for 5 min and then treated with (E)-4-bromo-3-(3-fluoro-phenoxy)-but-2-enoic acid ethyl ester (3.00 g, 0.010 mol) and the reaction mixture was heated at 110° C.-120° C. for 16 h. After this time, ice water was added and the resulting mixture was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel (100-200 mesh)) afforded (S)-3-cyclohexyl-2-[4-(3-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (1.40 g, 35%) as a yellow oil.

reactant | (S)-2-amino-3-cyclohexyl-propionic acid methyl ester | 0.011 mol, 2.03 g | COC([C@H](CC1CCCCC1)N)=O | C10H19NO2
reactant | N,N-diisopropylethylamine | 0.049 mol, 6.38 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-4-bromo-3-(3-fluoro-phenoxy)-but-2-enoic acid ethyl ester | 0.010 mol, 3.00 g | C(C)OC(\C=C(/CBr)\OC1=CC(=CC=C1)F)=O | C12H12BrFO3
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (S)-3-cyclohexyl-2-[4-(3-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 1.40 g, 35% | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=CC(=CC=C1)F)=O)=O | C20H24FNO4
